### PR TITLE
Added Z mod n as Fin

### PR DESCRIPTION
**Pull request by guilhermehas**
In `Data.Integer.DivMod`, there are already some properties of Z mod n, but in this pull request, it is represented as Fin n.

### CODE REVIEW

**Comment by jamesmckinna** [comment]
I'm hoping that #1923 will soon be merged, after which it might be easier to consider the 'carry' case of successor/addition in terms of the `top`/`inject₁` view of `Fin n`. Moreover, that PR already commits a proof of `inject₁≢fromℕ`... as well as a sizeable chunk of machinery for streamlining the use of `lower₁`.

File: src/Data/Fin/Mod.agda [hunk 1]
```diff
@@ -0,0 +1,107 @@
...
+suc : Fin n → Fin n
+suc {ℕ.suc n} i with i ≟ fromℕ n
+... | yes  _ = zero
+... | no i≢n = hs i≢n
+
+pred : Fin n → Fin n
+pred zero = fromℕ _
+pred (F.suc i) = inject₁ i
+
+_ℕ+_ : ℕ → Fin n → Fin n
```
Comment (Taneb) [inline src/Data/Fin/Mod.agda:44]: This and the other operators should have a fixity, probably `infixl 7` to match `Data.Nat._+_`

File: src/Data/Fin/Mod.agda [hunk 2]
```diff
@@ -0,0 +1,107 @@
...
+ℕ.zero ℕ+ i = i
+ℕ.suc n ℕ+ i = suc (n ℕ+ i)
+
+_+_ : Fin m → Fin n → Fin n
+i + j = toℕ i ℕ+ j
+
+_+‵_ : Fin n → Fin n → Fin n
```
Comment (Taneb) [inline src/Data/Fin/Mod.agda:51]: Is this ever necessary over `_+_`? A lot of the time Agda should be able to unify the two dimensions.

File: src/Data/Fin/Mod.agda [hunk 3]
```diff
@@ -0,0 +1,107 @@
...
+_+‵_ = _+_
+
+_-_ : Fin n → Fin n → Fin n
+i - j  = i + opposite j
```
Comment (Taneb) [inline src/Data/Fin/Mod.agda:55]: This suggests that `opposite` is an inverse function for `_+_` (which I agree it should be). Can you prove this?

**Review by Taneb — COMMENTED** [review]
Other things to think about:

- `_+ℕ_` also has a (admittedly trivial) left identity. We should have this proven.
- How do these operations interact with addition of `ℕ` and `ℤ`?
- Can you define a `_+ℤ_`? What laws does it have?
- Is `_+_` associative? Commutative? It should be both.
- Can you define a corresponding notion of multiplication modulo n? What laws does it have? When does that have an inverse?

**Comment by jamesmckinna** [comment]
Thanks @Taneb for the reinforcement... I'd previously held off asking about proofs that `Fin n`, organised with a particular structure of modular arithmetic, satisfied the `IsGroup`... `IsRing` etc. axioms, but clearly that it was is eventually required. Towards a first `label:addition` PR, I agree that we should have more (all?) towards such a collection of `Properties`...

File: src/Data/Fin/Mod.agda (hunk 3 above)
Comment (jamesmckinna) [reply src/Data/Fin/Mod.agda:55]: Again, for a possible alternative (re-)definition of `opposite`, see also #1923

File: src/Data/Fin/Mod.agda [hunk 4]
```diff
@@ -0,0 +1,107 @@
...
+-- ℤ module n
+------------------------------------------------------------------------
+
+{-# OPTIONS --cubical-compatible --safe #-}
+
+module Data.Fin.Mod where
+
+open import Function using (_$_; _∘_)
+open import Data.Bool using (true; false)
+open import Data.Nat as ℕ using (ℕ; s≤s)
```
Comment (jamesmckinna) [inline src/Data/Fin/Mod.agda:13]: This should be narrowed to `Data.Nat.Base`

File: src/Data/Fin/Mod.agda [hunk 5]
```diff
@@ -0,0 +1,107 @@
...
+open import Data.Nat.Properties as ℕ
+  using (m≤n⇒m≤1+n; 1+n≰n; module ≤-Reasoning)
+open import Data.Fin as F hiding (suc; pred; _+_; _-_)
```
Comment (jamesmckinna) [inline src/Data/Fin/Mod.agda:16]: Ditto. `.Base` here also.

File: src/Data/Fin/Mod.agda [hunk 6]
```diff
@@ -0,0 +1,107 @@
...
+open import Data.Fin.Properties
+open import Relation.Nullary using (Dec; yes; no; contradiction)
```
Comment (jamesmckinna) [inline src/Data/Fin/Mod.agda:18]: There's a drift (which I am actively pursuing in #2055) towards narrowing this to the following:
```
open import Relation.Nullary.Decidable.Core using (Dec; yes; no)
open import Relation.Nullary.Negation.Core using (contradiction)
```

File: src/Data/Fin/Mod.agda [hunk 7]
```diff
@@ -0,0 +1,107 @@
...
+private
+  inject₁≢fromℕ : {i : Fin n} → inject₁ i ≢ fromℕ n
+  inject₁≢fromℕ {n} {i} i≡n = 1+n≰n $ begin-strict
+    toℕ (fromℕ n)  ≡˘⟨ cong toℕ i≡n ⟩
+    toℕ (inject₁ i) <⟨ inject₁ℕ< i ⟩
+    n              ≡˘⟨ toℕ-fromℕ n ⟩
+    toℕ (fromℕ n) ∎
+    where open ≤-Reasoning
+
+suc-inj≡fsuc : (i : Fin n) → suc (inject₁ i) ≡ F.suc i
```
Comment (jamesmckinna) [inline src/Data/Fin/Mod.agda:66]: This has a direct proof by induction on `i`, or not? It seems perverse to take the detour via the case analysis, or am I missing something?

**Comment by guilhermehas** [comment]
I think I will wait for https://github.com/agda/agda-stdlib/pull/1923 to be merged to redefine all my solutions.

**Comment by jamesmckinna** [comment]
If you going to wait for another PR to merge: suggest that you
* continue to push commits to your branch (as indicated, there's alot more that might usefully be added to a PR like this one)
* but change your PR status to `DRAFT`, so that we don't expend reviewing credits ahead of time... ;-)

Good luck, and thanks in advance! Something along these lines has been missing for a long time now.

**Comment by laMudri** [comment]
Would it be possible to prove one big theorem that any results that hold about ℤ under the mod n equivalence relation also hold of this `Fin n` (up to propositional equality) representation? When I've tried to implement some modular arithmetic before, I've been left with the impression that the integers really are the right place to start, and that with `Fin n`, you get buried in cases for boundary checks, though I imagine that `Fin n` is useful in certain cases.

**Comment by Taneb** [comment]
@laMudri for that we'd need a definition of the mod n equivalence relation. I've been behind-the-scenes working on one but keep convincing myself I have the wrong definition for it. Currently working on one in terms of ring ideals - this would let us get, for example, the ring of polynomials over the integers modulo x^2 + x  + 1 with the same code. But I don't think this PR needs to wait for that!

**Comment by jamesmckinna** [comment]
PR #1923 now successfully merged.

**Comment by guilhermehas** [comment]
@jamesmckinna , I have already made the modifications to the code using https://github.com/agda/agda-stdlib/pull/1923 .

File: src/Data/Fin/Mod.agda (hunk 1 above)
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda:43]: I have already put the infix.

File: src/Data/Fin/Mod.agda (hunk 3 above)
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda:51]: Now, it is with the alternative re-definition.

File: src/Data/Fin/Mod.agda (hunk 7 above)
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda:53]: The proof is now using the new definition.

File: src/Data/Fin/Mod.agda (hunk 5 above)
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda]: It is now with Base.

File: src/Data/Fin/Mod.agda (hunk 2 above)
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda]: It could be necessary if someone wants a more restrictive version.
This is one example:
https://github.com/agda/agda-stdlib/blob/78e11bdee2eaaf7652c7be32d890821aeebe8781/src/Function/Base.agda#L134

File: src/Data/Fin/Mod.agda [hunk 8]
```diff
@@ -0,0 +1,111 @@
...
+    toℕ (fromℕ< (s≤s m≤n)) ≡˘⟨ toℕ-inject₁ _ ⟩
+    toℕ (inject₁ (fromℕ< (s≤s m≤n))) ∎
+
++ℕ-identityʳ : (m≤n : m ℕ.≤ n) → m ℕ+ zero ≡ fromℕ< (s≤s m≤n)
++ℕ-identityʳ {m} m≤n = toℕ-injective (begin
+  toℕ (m ℕ+ zero) ≡⟨ +ℕ-identityʳ-toℕ m≤n ⟩
+  m                 ≡˘⟨ toℕ-fromℕ< _ ⟩
+  toℕ (fromℕ< (s≤s m≤n)) ∎)
+
++-identityʳ : RightIdentity {ℕ.suc n} zero _+_
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Mod.agda:97]: This should probably be `.{{_ : NonZero n}} -> RightIdentity {n = n} zero _+_`?

File: src/Data/Fin/Mod.agda [hunk 9]
```diff
@@ -0,0 +1,111 @@
...
+-- ℤ module n
+------------------------------------------------------------------------
+
+{-# OPTIONS --cubical-compatible --safe #-}
+
+module Data.Fin.Mod where
+
+open import Function using (id; _$_; _∘_)
+open import Data.Bool using (true; false)
+open import Data.Product
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Mod.agda:13]: The three imports above can all be `Base` imports

File: src/Data/Fin/Mod.agda [hunk 10]
```diff
@@ -0,0 +1,111 @@
...
+sucFromℕ≡0 n rewrite view-fromℕ n = refl
+
+pred-fsuc≡inj : (i : Fin n) → pred (F.suc i) ≡ inject₁ i
+pred-fsuc≡inj _ = refl
+
+suc-pred≡id : (i : Fin n) → suc (pred i) ≡ i
+suc-pred≡id zero = sucFromℕ≡0 _
+suc-pred≡id (F.suc i) = suc-inj≡fsuc i
+
+pred-suc≡id : (i : Fin n) → pred (suc i) ≡ i
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Mod.agda:68]: `pred-suc`

**Review by MatthewDaggitt — CHANGES_REQUESTED** [review]
Sorry for the delay in reviewing!

File: src/Data/Fin/Mod.agda [hunk 11]
```diff
@@ -0,0 +1,111 @@
+------------------------------------------------------------------------
+-- The Agda standard library
+--
+-- ℤ module n
```
[the remark this answers is not in the document]
Comment (laMudri) [reply src/Data/Fin/Mod.agda:4]: `ℤ` seems right (according to standard mathematical notation), but it should be `modulo`.

[the remark this answers is not in the document]
Comment (MatthewDaggitt) [reply src/Data/Fin/Mod.agda:4]: Except that nowhere do we import `Data.Integer`....

File: src/Data/Fin/Mod.agda (hunk 3 above)
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda]: I made it assymmetric.

File: src/Data/Fin/Mod.agda (hunk 11 above)
[the remark this answers is not in the document]
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda]: I fixed the definition

File: src/Data/Fin/Mod.agda [hunk 12]
```diff
@@ -0,0 +1,111 @@
...
+ℕ.zero ℕ+ i = i
+ℕ.suc n ℕ+ i = suc (n ℕ+ i)
+
+_+_ : Fin m → Fin n → Fin n
+i + j = toℕ i ℕ+ j
+
+_-_ : Fin n → Fin n → Fin n
+i - j  = i + opposite j
+
+suc-inj≡fsuc : (i : Fin n) → suc (inject₁ i) ≡ F.suc i
```
[the remark this answers is not in the document]
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda]: I renamed them.

File: src/Data/Fin/Mod.agda [hunk 13]
```diff
@@ -0,0 +1,111 @@
...
+suc-inj≡fsuc i rewrite view-inject₁ i = cong F.suc (view-complete (view i))
+
+sucFromℕ≡0 : ∀ n → suc (fromℕ n) ≡ zero
```
[the remark this answers is not in the document]
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda]: I renamed it.

File: src/Data/Fin/Mod.agda [hunk 14]
```diff
@@ -0,0 +1,111 @@
...
+sucFromℕ≡0 n rewrite view-fromℕ n = refl
+
+pred-fsuc≡inj : (i : Fin n) → pred (F.suc i) ≡ inject₁ i
```
[the remark this answers is not in the document]
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda]: I renamed it.

File: src/Data/Fin/Mod.agda [hunk 15]
```diff
@@ -0,0 +1,111 @@
...
+open import Data.Fin.Relation.Unary.Top
+open import Relation.Nullary.Decidable.Core using (Dec; yes; no)
+open import Relation.Nullary.Negation.Core using (contradiction)
+open import Relation.Binary.PropositionalEquality
+  using (_≡_; _≢_; refl; sym; trans; cong; module ≡-Reasoning)
+import Algebra.Definitions as ADef
+open import Relation.Unary using (Pred)
+
+private variable
+  m n : ℕ
```
[the remark this answers is not in the document]
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda:16]: It is now after the open.

File: src/Data/Fin/Mod.agda (hunk 8 above)
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda]: I added it.

File: src/Data/Fin/Mod.agda (hunk 9 above)
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda]: I put as Base.

File: src/Data/Fin/Mod.agda (hunk 10 above)
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda]: I renamed it.

File: src/Data/Fin/Mod.agda [hunk 16]
```diff
@@ -0,0 +1,111 @@
...
+_ℕ+_ : ℕ → Fin n → Fin n
+ℕ.zero ℕ+ i = i
+ℕ.suc n ℕ+ i = suc (n ℕ+ i)
+
+_+_ : Fin m → Fin n → Fin n
+i + j = toℕ i ℕ+ j
+
+_-_ : Fin n → Fin n → Fin n
+i - j  = i + opposite j
+
```
[the remark this answers is not in the document]
Comment (guilhermehas) [reply src/Data/Fin/Mod.agda]: It is already in `Data.Fin.Mod.Properties`

File: src/Data/Fin/Mod/Properties.agda [hunk 17]
```diff
@@ -0,0 +1,104 @@
...
+------------------------------------------------------------------------
+-- _+_
+
++-identityˡ : .{{ _ : NonZero n }} → LeftIdentity zeroFromNonZero _+_
++-identityˡ {suc _} _ = refl
+
++-identityʳ : .{{ _ : NonZero n }} → RightIdentity zeroFromNonZero _+_
++-identityʳ {suc n} i rewrite +ℕ-identityʳ {m = toℕ i} {n} _ = fromℕ<-toℕ _ (toℕ≤pred[n] _)
+
+induction :
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Mod/Properties.agda:93]: This should be moved to a new file `Data.Fin.Mod.Induction` (i.e. along the lines of https://github.com/agda/agda-stdlib/blob/master/src/Data/Fin/Induction.agda).

Also I think this proof should be strengthened. Surely this should hold for any `exists j . P j`, not just `P zero`?

File: src/Data/Fin/Properties.agda [hunk 18]
```diff
@@ -68,6 +68,9 @@ private
 nonZeroIndex : Fin n → ℕ.NonZero n
 nonZeroIndex {n = suc _} _ = _
 
+zeroFromNonZero : .⦃ _ : ℕ.NonZero n ⦄ → Fin n
+zeroFromNonZero {n = suc _} = zero
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:72]: Anyone have any bright ideas for what this could be called? @jamesmckinna etc?

It should also live in `Data.Fin.Base` I think?

**Review by MatthewDaggitt — COMMENTED** [review]
Thanks @guilhermehas, I've done a little bit of refactoring and have a couple of more comments. I'll have another go over it at the start of next week. 

Sorry it's taking so long, it's nearly there I think!

File: src/Data/Fin/Mod.agda [hunk 19]
```diff
@@ -0,0 +1,38 @@
...
+predMod : Fin n → Fin n
+predMod zero = fromℕ _
+predMod (suc i) = inject₁ i
+
+_ℕ+_ : ℕ → Fin n → Fin n
+zero  ℕ+ i = i
+suc n ℕ+ i = sucMod (n ℕ+ i)
+
+_+_ : Fin m → Fin n → Fin n
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Mod.agda:34]: Can you give me an example of a use-case of this operation? Seems a little unnatural to me adding together two numbers of different mods and arbitrarily returning the left one?

And why does `_-_` return the right one?

File: src/Data/Fin/Properties.agda (hunk 18 above)
Comment (jamesmckinna) [reply src/Data/Fin/Properties.agda:72]: So, the abandoned #1847 , tackling #1686 , called this concept "homogeneous zero" (and its friend "homogeneous successor", on the model of `n : Nat, i : Fin n` being a 'homogeneous' telescope; of course, the `{{NonZero n}}` precondition spoils things, but hey ;-)), and gave it the terrible name `zero\'` in the PR. 

:+1: to its being in `Data.Fin.Base`, as in that PR.

Better name(s): `hzero`? `zeroNZ`? `zero⁺`? 

I ran out of mental strength/inspiration working on that PR, and I find it slightly hard to revisit the discussion/thought processes again now...

File: CHANGELOG.md [hunk 20]
```diff
@@ -80,3 +82,36 @@ Additions to existing modules
...
+  suc-inject₁      : ∀ i → sucMod (inject₁ i) ≡ F.suc i
+  suc-fromℕ        : ∀ n → sucMod (fromℕ n) ≡ zero
+  pred-sucMod      : ∀ i → predMod (F.suc i) ≡ inject₁ i
+  suc-pred≡id      : ∀ i → sucMod (predMod i) ≡ i
+  pred-suc         : ∀ i → predMod (sucMod i) ≡ i
+  +-identityˡ      : .⦃ NonZero n ⦄ → LeftIdentity zeroFromNonZero _+_
+  +ℕ-identityʳ-toℕ : m ℕ.≤ n → toℕ (m ℕ+ zero {n}) ≡ m
+  +ℕ-identityʳ     : ∀ m≤n → m ℕ+ zero ≡ fromℕ< (s≤s m≤n)
+  +-identityʳ      : .⦃ NonZero n ⦄ → RightIdentity zeroFromNonZero _+_
+  induction        : ∀ P → P zero → (P i → P (sucMod i)) → ∀ i → P i
```
Comment (jamesmckinna) [inline CHANGELOG.md:111]: I think that this has now moved to `Data.Fin.Mod.Induction`?

**Review by jamesmckinna — COMMENTED** [review]
Don't really know why I still have open review comments, but I've updated in response to @Matthew's comment, plus a new snafu I found.

File: CHANGELOG.md [hunk 21]
```diff
@@ -83,9 +83,9 @@ Additions to existing modules
   pred-cancel-≡ : pred m ≡ pred n → ((m ≡ 0 × n ≡ 1) ⊎ (m ≡ 1 × n ≡ 0)) ⊎ m ≡ n
   ```
 
-* In `Data.Fin.Properties`:
+* In `Data.Fin.Base`:
   ```agda
-  zeroFromNonZero : .⦃ NonZero n ⦄ → Fin n
+  zero⁺ : .⦃ NonZero n ⦄ → Fin n
```
Comment (jamesmckinna) [inline CHANGELOG.md:88]: Do we want `suc⁺ : .⦃ NonZero n ⦄ → Fin (pred n) → Fin n` as well?

**Comment by guilhermehas** [comment]
I added all of your suggestions if I am not missing anything.

**Comment by jamesmckinna** [comment]
Having now worked extensively on #2257 (and using it to sketch an implementation of  `ℤ mod n`) I realise that I can't be an objective reviewer of this PR. 
There may be room for aspects of each PR to be merged, but I no longer think that `Fin n` is the best way to represent the underlying `Carrier` of (any version of)  `ℤ mod n`. 
Very happy to let others arbitrate between the various approaches, or come up with new ones (cf. the discussion on #581 )

**Comment by JacquesCarette** [comment]
The library committee met, and decided that this is not the design that we wish to go with. Thank you very much for your efforts, but we regretfully must close this.
